US06087480
0.002 g of ammonium vanadate and 2 g of titanium dioxide extrudate containing 1% by weight of palladium and having a particle size of 3 mm (from Johnson Matthey) are added to a suspension consisting of 250 ml of water and 13.3 g of N-(4-nitrophenyl)phthalimide. After displacing the air with nitrogen, the latter is replaced by hydrogen at atmospheric pressure and the suspension is stirred at 60° C. At a hydrogen absorption of 40% of theory (after 42 hours), the suspension is transferred to an autoclave together with a catalyst and is then stirred at 100° C. under a hydrogen pressure of 10 bar for another 21 hours. During this time, a total of 115% of the theoretical amount of hydrogen, based on N-(4-nitrophenyl)phthalimide, is absorbed. After cooling to room temperature, the resulting suspension is sieved through a sieve having a mesh width of 1 mm. The material remaining on the sieve is washed with 50 ml of water and the combined aqueous phases are then filtered through a paper filter and washed with 250 ml of water. Drying at 80° C. under reduced pressure (125 mbar) gives 9.4 g (80%) of N-(4-aminophenyl)phthalimide.

reactant | N-(4-nitrophenyl)phthalimide | 13.3 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C14H8N2O4
reactant | hydrogen | [H][H] | H2
catalyst | ammonium vanadate | 0.002 g | N.O[V](=O)=O
catalyst | titanium dioxide | 2 g | [O-2].[O-2].[Ti+4]
catalyst | palladium | [Pd] | Pd
solvent | water | 250 ml | O | H2O
product | N-(4-aminophenyl)phthalimide | 9.4 g, 80% | NC1=CC=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C14H10N2O2
